US06548677B1
Preparation of 3-(3-chloro-2-methyl-6-methylsulfonylphenyl)-4,5-dihydroisoxazole
1.4 g (6.2 mmol) of 3-(3-chloro-2-methyl-6-methylthiophenyl)-4,5-dihydroisoxazole are dissolved in 3 ml of glacial acetic acid, and 30.7 mg of sodium tungstate dihydrate are added. At 25-40° C., 2.1 g (18.6 mmol) of hydrogen peroxide are added dropwise, and the reaction mixture is stirred for 3 h. The reaction mixture is then poured into 1.5 ml of water, the mixture is cooled to 0° C. and the resulting precipitate is filtered off with suction, washed five times with 10 ml of water and dried under reduced pressure. This gives 1.23 g of product.

reactant | 3-(3-chloro-2-methyl-6-methylthiophenyl)-4,5-dihydroisoxazole | 6.2 mmol, 1.4 g | ClC=1C(=C(C(=CC1)SC)C1=NOCC1)C | C11H12ClNOS
reactant | hydrogen peroxide | 18.6 mmol, 2.1 g | OO | H2O2
reactant | water | 1.5 ml | O | H2O
reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
catalyst | sodium tungstate dihydrate | 30.7 mg | O.O.[O-][W](=O)(=O)[O-].[Na+].[Na+]
product | 3-(3-chloro-2-methyl-6-methylsulfonylphenyl)-4,5-dihydroisoxazole | ClC=1C(=C(C(=CC1)S(=O)(=O)C)C1=NOCC1)C | C11H12ClNO3S
